US06288091B1
a) tert-Butyl N-(2-hydroxy-2-oxoethyl)-N-(phenylmethyl)carbamate
To a cold (−20°) suspension of 60% NaH (120 g, 3.00 mol) in THF (700 mL) was added (30 min) a solution of Boc-glycine (175 g, 1.00 mol) in THF (300 mL). Thereafter, benzyl bromide was added to the mixture. After 15 min, the cooling bath was removed. The reaction mixture was stirred at room temperature for 1 h and then heated at reflux for 16 h. The reaction mixture was cooled to 0°. H2O (˜50 mL) was added dropwise over a 30 min period. After another 30 min, H2O (600 mL) was added. The mixture was washed with hexane (3×500 mL). 1N Aqueous HCl (1.3 L) was added slowly to the aqueous layer, followed by the addition of 4N aqueous HCl (300 mL). The aqueous solution was extracted with EtOAc (1.5 L) and then CH2C12 (3×500 mL). The combined organic layers were serially washed with H2O and brine, dried (MgSO4, Na2SO4, charcoal), filtered through diatomaceous earth and concentrated under reduced pressure to give the title compound (241 g, 91% yield) as a pale yellow solid: Mp 94-97°; 1H NMR (400 MHz, DMSO-d6) δ10.5 (broad s, 1H), 7.23-7.33 (m, 5H), 4.40 (s, 2H), 3.80, 3.72 (2s, 2H), 1.38, 1.35 (2s, 9H); MS (FAB) m/z 266 (MH)+; Anal. Calcd for C14H19NO4 (and accounting for water content, 0.58% w/w as determined by Karl Fisher analysis): C, 63.01; H, 7.26; N, 5.25. Found: C, 62.79; H, 7.14; N, 5.13.

reactant | NaH | 3.00 mol, 120 g | [H-].[Na+]
reactant | Boc-glycine | 1.00 mol, 175 g | C(=O)(OC(C)(C)C)NCC(=O)O | C7H13NO4
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
solvent | THF | 700 mL | C1CCOC1 | C4H8O
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | tert-Butyl N-(2-hydroxy-2-oxoethyl)-N-(phenylmethyl)carbamate | 241 g, 91% yield | OC(CN(C(OC(C)(C)C)=O)CC1=CC=CC=C1)=O | C14H19NO4
